US05216165
A) 4-(Bromomethyl)-N,N-diethylbenzamide
4-Bromomethylbenzoic acid (50 g, 233 mmol) is dissolved in 500 mL of tetrahydrofuran containing a few drops if N,N-dimethylformamide at room temperature under nitrogen and treated dropwise over 1 hour with oxalyl chloride (268 mmol, 34.0 g, 23.4 mL). After the addition, the reaction mixture is stirred for 0.5 hour, at which point the solvent is removed in vacuo. The solid residue is dissolved in 200 mL of tetrahydrofuran and poured into a rapidly stirring solution of diethylamine (536 mmol, 39.2 g, 55.7 mL) in 400 mL of water. After the mixture cools to room temperature, 100 mL of ether are added and the two phases are separated. The organic phase is dried over magnesium sulfate and concentrated in vacuo affording 54.01 g (200 mmol, 86% yield) of the product as a white solid.

reactant | 4-Bromomethylbenzoic acid | 233 mmol, 50 g | BrCC1=CC=C(C(=O)O)C=C1 | C8H7BrO2
reactant | oxalyl chloride | 268 mmol, 23.4 mL, 34.0 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | diethylamine | 536 mmol, 55.7 mL, 39.2 g | C(C)NCC | C4H11N
reactant | ether | 100 mL | CCOCC | C4H10O
catalyst | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | 400 mL | O | H2O
product | 4-(Bromomethyl)-N,N-diethylbenzamide | 200 mmol, 54.01 g, 86% yield | BrCC1=CC=C(C(=O)N(CC)CC)C=C1 | C12H16BrNO
